US07196114B2
c) 1-[3-Amino-5-(piperidine-1-sulfonyl)thiophen-2-yl]piperidine-4-carboxylic acid
The solution of 300 mg of 1-(3-nitro-5-piperidine-1-sulfonylthiophen-2-yl)piperidine-4-carboxylic acid in 20 ml of ethyl acetate is admixed with 1.0 g of tin(II) chloride and stirred at 65° C. for 8 h. After cooling, it is stirred with 30 ml of water and filtered off with suction through Celite, and the ethyl acetate phase is removed, dried and concentrated under reduced pressure. This crude product is used further without further purification.

reactant | 1-(3-nitro-5-piperidine-1-sulfonylthiophen-2-yl)piperidine-4-carboxylic acid | 300 mg | [N+](=O)([O-])C1=C(SC(=C1)S(=O)(=O)N1CCCCC1)N1CCC(CC1)C(=O)O | C15H21N3O6S2
reactant | tin(II) chloride | 1.0 g | [Sn](Cl)Cl
reactant | water | 30 ml | O | H2O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 1-[3-Amino-5-(piperidine-1-sulfonyl)thiophen-2-yl]piperidine-4-carboxylic acid | NC1=C(SC(=C1)S(=O)(=O)N1CCCCC1)N1CCC(CC1)C(=O)O | C15H23N3O4S2
